** Name: SimpleTwoStageOpAmp_SimpleOpAmp34_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp34_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=14e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=337e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=114e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=48e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=22e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=36e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=6e-6 W=600e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=32e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=79e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=114e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=337e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=495e-6
mNormalTransistorPmos15 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=289e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=356e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=36e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp34_7

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 3.72701 mW
** Area: 14157 (mu_m)^2
** Transit frequency: 13.4531 MHz
** Transit frequency with error factor: 13.4455 MHz
** Slew rate: 12.6794 V/mu_s
** Phase margin: 60.1606°
** CMRR: 104 dB
** negPSRR: 116 dB
** posPSRR: 105 dB
** VoutMax: 4.78001 V
** VoutMin: 0.220001 V
** VcmMax: 4.39001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 22.4921 muA
** NormalTransistorNmos: 55.8421 muA
** NormalTransistorPmos: -169.645 muA
** DiodeTransistorPmos: -29.2059 muA
** NormalTransistorPmos: -29.2059 muA
** NormalTransistorPmos: -29.2059 muA
** NormalTransistorNmos: 58.4091 muA
** DiodeTransistorNmos: 58.4081 muA
** NormalTransistorNmos: 29.2051 muA
** NormalTransistorNmos: 29.2051 muA
** NormalTransistorNmos: 429.031 muA
** NormalTransistorPmos: -429.03 muA
** DiodeTransistorNmos: 169.646 muA
** NormalTransistorNmos: 169.646 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -22.4929 muA
** DiodeTransistorPmos: -55.8429 muA


** Expected Voltages: 
** ibias: 0.629001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.21501  V
** outInputVoltageBiasXXnXX1: 1.12001  V
** outSourceVoltageBiasXXnXX1: 0.560001  V
** outVoltageBiasXXpXX0: 3.92201  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.13601  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** inner: 0.560001  V


.END