** Name: SimpleTwoStageOpAmp_SimpleOpAmp36_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp36_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=286e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=62e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=556e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=300e-6
mDiodeTransistorPmos6 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=3e-6 W=98e-6
mDiodeTransistorPmos7 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=104e-6
mNormalTransistorNmos8 out ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=556e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=96e-6
mNormalTransistorNmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos11 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=62e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=286e-6
mNormalTransistorNmos14 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=526e-6
mNormalTransistorPmos16 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=98e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=340e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=104e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp36_9

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 7.78001 mW
** Area: 13224 (mu_m)^2
** Transit frequency: 14.7031 MHz
** Transit frequency with error factor: 14.694 MHz
** Slew rate: 13.8571 V/mu_s
** Phase margin: 60.1606°
** CMRR: 107 dB
** negPSRR: 102 dB
** posPSRR: 96 dB
** VoutMax: 4.41001 V
** VoutMin: 0.930001 V
** VcmMax: 3.88001 V
** VcmMin: 1.38001 V


** Expected Currents: 
** NormalTransistorNmos: 192.147 muA
** NormalTransistorPmos: -215.464 muA
** DiodeTransistorPmos: -23.8089 muA
** DiodeTransistorPmos: -23.8099 muA
** NormalTransistorPmos: -23.8089 muA
** NormalTransistorPmos: -23.8099 muA
** NormalTransistorNmos: 47.6151 muA
** DiodeTransistorNmos: 47.6141 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 1090.82 muA
** DiodeTransistorNmos: 1090.82 muA
** NormalTransistorPmos: -1090.81 muA
** DiodeTransistorNmos: 215.465 muA
** NormalTransistorNmos: 215.465 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -192.146 muA


** Expected Voltages: 
** ibias: 1.33801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 4.01301  V
** out: 2.5  V
** outFirstStage: 3.84401  V
** outInputVoltageBiasXXnXX1: 1.23401  V
** outSourceVoltageBiasXXnXX1: 0.617001  V
** outSourceVoltageBiasXXnXX2: 0.670001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.47301  V
** innerSourceLoad1: 4.23901  V
** innerTransistorStack2Load1: 4.23801  V
** sourceTransconductance: 1.94501  V
** inner: 0.617001  V
** inner: 0.666001  V


.END