** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=11e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=114e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=79e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=474e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=6e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=77e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=75e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=8e-6 W=152e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=515e-6
mNormalTransistorPmos13 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=83e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=289e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=83e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=34e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=34e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_7

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 6.84901 mW
** Area: 13875 (mu_m)^2
** Transit frequency: 15.3911 MHz
** Transit frequency with error factor: 15.382 MHz
** Slew rate: 14.5055 V/mu_s
** Phase margin: 60.1606°
** CMRR: 99 dB
** negPSRR: 114 dB
** posPSRR: 104 dB
** VoutMax: 4.76001 V
** VoutMin: 0.25 V
** VcmMax: 4.88001 V
** VcmMin: 1.42001 V


** Expected Currents: 
** NormalTransistorNmos: 69.4041 muA
** NormalTransistorNmos: 426.443 muA
** NormalTransistorPmos: -249.433 muA
** NormalTransistorPmos: -33.6499 muA
** NormalTransistorPmos: -33.6509 muA
** NormalTransistorPmos: -33.6499 muA
** NormalTransistorPmos: -33.6509 muA
** NormalTransistorNmos: 67.2971 muA
** NormalTransistorNmos: 67.2961 muA
** NormalTransistorNmos: 33.6491 muA
** NormalTransistorNmos: 33.6491 muA
** NormalTransistorNmos: 547.31 muA
** NormalTransistorPmos: -547.309 muA
** DiodeTransistorNmos: 249.434 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -69.4049 muA
** DiodeTransistorPmos: -426.442 muA


** Expected Voltages: 
** ibias: 0.658001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.19101  V
** outVoltageBiasXXnXX1: 0.862001  V
** outVoltageBiasXXpXX0: 3.81201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.91001  V
** innerStageBias: 0.253001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V


.END