** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=5e-6 W=13e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=151e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=507e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=507e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=317e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=120e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=153e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=120e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=171e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=51e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=151e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=170e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=81e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=132e-6
mNormalTransistorPmos18 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=81e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=8e-6 W=41e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=8e-6 W=41e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 12.4431 mW
** Area: 9114 (mu_m)^2
** Transit frequency: 16.6851 MHz
** Transit frequency with error factor: 16.6752 MHz
** Slew rate: 15.725 V/mu_s
** Phase margin: 60.1606°
** CMRR: 98 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.970001 V
** VcmMax: 4.81001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorNmos: 58.5431 muA
** NormalTransistorNmos: 121.84 muA
** NormalTransistorPmos: -506.787 muA
** NormalTransistorPmos: -32.6519 muA
** NormalTransistorPmos: -32.6529 muA
** NormalTransistorPmos: -32.6519 muA
** NormalTransistorPmos: -32.6529 muA
** NormalTransistorNmos: 65.3011 muA
** NormalTransistorNmos: 65.3001 muA
** NormalTransistorNmos: 32.6511 muA
** NormalTransistorNmos: 32.6511 muA
** NormalTransistorNmos: 1726.08 muA
** DiodeTransistorNmos: 1726.08 muA
** NormalTransistorPmos: -1726.07 muA
** DiodeTransistorNmos: 506.788 muA
** NormalTransistorNmos: 506.788 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -58.5439 muA
** DiodeTransistorPmos: -121.839 muA


** Expected Voltages: 
** ibias: 1.17301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.37601  V
** outSourceVoltageBiasXXnXX1: 0.688001  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXpXX0: 3.97101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.83601  V
** innerStageBias: 0.492001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** inner: 0.688001  V


.END