** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_2

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_2 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=32e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=62e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mNormalTransistorNmos4 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=201e-6
mNormalTransistorNmos5 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=37e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=62e-6
mNormalTransistorNmos7 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=237e-6
mNormalTransistorPmos8 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos9 out ibias sourcePmos sourcePmos pmos4 L=1e-6 W=582e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=56e-6
mNormalTransistorPmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=56e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=209e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_2

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 5.48801 mW
** Area: 3078 (mu_m)^2
** Transit frequency: 15.9701 MHz
** Transit frequency with error factor: 15.9361 MHz
** Slew rate: 36.4825 V/mu_s
** Phase margin: 71.6198°
** CMRR: 89 dB
** negPSRR: 94 dB
** posPSRR: 131 dB
** VoutMax: 4.79001 V
** VoutMin: 0.310001 V
** VcmMax: 3.53001 V
** VcmMin: 0.25 V


** Expected Currents: 
** NormalTransistorPmos: -459.948 muA
** DiodeTransistorNmos: 81.6071 muA
** NormalTransistorNmos: 81.6071 muA
** NormalTransistorNmos: 81.6071 muA
** NormalTransistorPmos: -163.214 muA
** NormalTransistorPmos: -81.6079 muA
** NormalTransistorPmos: -81.6079 muA
** NormalTransistorNmos: 454.505 muA
** NormalTransistorNmos: 454.504 muA
** NormalTransistorPmos: -454.504 muA
** DiodeTransistorNmos: 459.949 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.815001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.654001  V
** innerTransistorStack2Load1: 0.249001  V
** sourceTransconductance: 3.76001  V
** innerTransconductance: 0.246001  V


.END