** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=74e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=9e-6 W=29e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=29e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=207e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=9e-6 W=588e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=426e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=8e-6 W=131e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=29e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=237e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=595e-6
mNormalTransistorPmos12 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=263e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=226e-6
mNormalTransistorPmos14 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=263e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=135e-6
mNormalTransistorPmos16 SecondStageYinnerStageBias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=596e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_3

** Expected Performance Values: 
** Gain: 106 dB
** Power consumption: 13.3401 mW
** Area: 13351 (mu_m)^2
** Transit frequency: 13.2811 MHz
** Transit frequency with error factor: 13.2696 MHz
** Slew rate: 15.2011 V/mu_s
** Phase margin: 60.1606°
** CMRR: 101 dB
** negPSRR: 106 dB
** posPSRR: 220 dB
** VoutMax: 4.68001 V
** VoutMin: 0.150001 V
** VcmMax: 4.09001 V
** VcmMin: 0.220001 V


** Expected Currents: 
** NormalTransistorNmos: 2101.76 muA
** NormalTransistorPmos: -104.431 muA
** NormalTransistorPmos: -109.021 muA
** DiodeTransistorNmos: 31.1911 muA
** NormalTransistorNmos: 31.1921 muA
** NormalTransistorNmos: 31.1911 muA
** NormalTransistorPmos: -62.3819 muA
** NormalTransistorPmos: -31.1909 muA
** NormalTransistorPmos: -31.1909 muA
** NormalTransistorNmos: 270.472 muA
** NormalTransistorPmos: -270.471 muA
** NormalTransistorPmos: -270.472 muA
** DiodeTransistorNmos: 104.432 muA
** DiodeTransistorNmos: 109.022 muA
** DiodeTransistorPmos: -2101.75 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.780001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 1.02101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.630001  V
** innerTransistorStack2Load1: 0.225001  V
** sourceTransconductance: 3.24601  V
** innerStageBias: 4.40901  V


.END